US08809369B2
A mixture of 2-(3-bromo-phenyl)-6-fluoro-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-8-carboxylic acid methyl ester (392 mg, 1.0 mmol), 1-(2-fluorophenyl)-piperazine (216 mg, 1.2 mmol), palladium (II) acetate (11.2 mg, 0.05 mmol), xantphos (34.7 mg, 0.06 mmol) and cesium carbonate (652 mg, 2 mmol) in toluene (5 mL) was heated for 3 h at 120° C. After colling to room temperature, the mixture was treated with ethyl acetate (50 mL) and washed with water (20 mL). The organic layer was dried over anhydrous sodium sulfate and concentrated in vacuo. Purification on flash silica gel chromatography (silica gel from QingDao, 200-300 mesh, glass column from Shanghai SD company) (50% ethyl acetate/hexanes) to afford 6-fluoro-2-{3-[4-(2-fluoro-phenyl)-piperazin-1-yl]-phenyl}-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-8-carboxylic acid methyl ester (0.3 g, 60%) as a white solid: MS (ESI) M+1=492.1.

reactant | 2-(3-bromo-phenyl)-6-fluoro-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-8-carboxylic acid methyl ester | 1.0 mmol, 392 mg | COC(=O)C=1C=C(C=C2C(CC(NC12)C1=CC(=CC=C1)Br)(C)C)F | C19H19BrFNO2
reactant | 1-(2-fluorophenyl)-piperazine | 1.2 mmol, 216 mg | FC1=C(C=CC=C1)N1CCNCC1 | C10H13FN2
reactant | cesium carbonate | 2 mmol, 652 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium (II) acetate | 0.05 mmol, 11.2 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | xantphos | 0.06 mmol, 34.7 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
product | 6-fluoro-2-{3-[4-(2-fluoro-phenyl)-piperazin-1-yl]-phenyl}-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-8-carboxylic acid methyl ester | 0.3 g, 60% | COC(=O)C=1C=C(C=C2C(CC(NC12)C1=CC(=CC=C1)N1CCN(CC1)C1=C(C=CC=C1)F)(C)C)F | C29H31F2N3O2
